US06291452B1
A solution of (3RS)-1-(2-acetylthiophen-3-yl)methyl-3-tert-butoxycarbonylamino-2,3-dihydro-5-isopropyl-1H-1,4-benzodiazepin-2-one (0.370 g) in ethyl acetate (50 ml) was treated with gaseous hydrogen chloride at 5˜10° C. in an ice-bath for 30 minutes. The resultant mixture was extracted with 3N aqueous hydrochloric acid (2×10 ml). The aqueous layer was basified with sodium hydrogen carbonate and extracted with ethyl acetate (2×50 ml). The extracts were combined, over sodium sulfate, filtered and concentrated in vacuo to afford (3RS)-1-(2-acetylthiophen-3-yl)methyl-3-amino-2,3-dihydro-5-isopropyl-1H-1,4-benzodiazepin-2-one (0.230 g), which was used in a following reaction step without further purification.

reactant | (3RS)-1-(2-acetylthiophen-3-yl)methyl-3-tert-butoxycarbonylamino-2,3-dihydro-5-isopropyl-1H-1,4-benzodiazepin-2-one | 0.370 g | C(C)(=O)C=1SC=CC1CN1C(C(N=C(C2=C1C=CC=C2)C(C)C)NC(=O)OC(C)(C)C)=O | C24H29N3O4S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (3RS)-1-(2-acetylthiophen-3-yl)methyl-3-amino-2,3-dihydro-5-isopropyl-1H-1,4-benzodiazepin-2-one | 0.230 g | C(C)(=O)C=1SC=CC1CN1C(C(N=C(C2=C1C=CC=C2)C(C)C)N)=O | C19H21N3O2S
